US09216173B2
A mixture of 4-aminotetrahydro-2H-thiopyran-4-carbonitrile (151 g, 1.07 mol) and di-tert-butyl dicarbonate (464 g, 2.13 mol) was heated to 80° C. After 3.5 hours, the reaction mixture was concentrated under reduced pressure, and then diluted with water (1000 mL) and extracted with ethyl acetate (2×2000 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was diluted with hexane (1000 mL) and stirred. The mixture was filtered, and the solids were washed with hexane (2×200 mL) and dried under reduced pressure to afford tert-butyl (4-cyanotetrahydro-2H-thiopyran-4-yl)carbamate. The material was used without further purification.

reactant | 4-aminotetrahydro-2H-thiopyran-4-carbonitrile | 1.07 mol, 151 g | NC1(CCSCC1)C#N | C6H10N2S
reactant | di-tert-butyl dicarbonate | 2.13 mol, 464 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl (4-cyanotetrahydro-2H-thiopyran-4-yl)carbamate | C(#N)C1(CCSCC1)NC(OC(C)(C)C)=O | C11H18N2O2S
